US06300347B1
2-(1-Cyclohexenyl)-4-(4-fluorophenyl)-5-(4-pyridyl)imidazole
The product of Example 7, 2-((1-hydroxy)cyclohexyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole (50 mg 0.15 mmol) is dissolved in toulene (100 ml) and refluxed with pTsOH (100 mg) for 15 min. The reaction mixture is poured on saturated NaHCO3 and extracted 3× with ethyl acetate. The combined organic phases are dried over Na2SO4, evaporated to dryness and chromatographed (SiO2 acetone/hexane 4/6) to render the title compound as white crystals (38 mg 81%),

reactant | 2-((1-hydroxy)cyclohexyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole | 0.15 mmol, 50 mg | OC1(CCCCC1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C20H20FN3O
reactant | pTsOH | 100 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-(1-Cyclohexenyl)-4-(4-fluorophenyl)-5-(4-pyridyl)imidazole | C1(=CCCCC1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C20H18FN3
